Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]([H:3])([H:4])[C:5]#[C:6][H:7].[C:2]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][H:7],-3.17126812381
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:10]([H:11])([H:12])[H:13].[O:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.765200124681
[C:4]([H:5])([O:6][H:7])=[C:8]([H:9])[H:10].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],-2.5176473668
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C@:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])[H:19].[H:20],4.56758691934
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],0.92274647207
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2],8.15596648771
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56410547809
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10].[O:11][H:12],5.37807095155
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[H:1][C:2],8.66743608118
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:9]([H:10])[H:11].[H:8],4.878225413380001
[C:3][O:4][C:5]#[C:6][H:7].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7],-1.6208566136200002
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:5],4.18658900951
[H:7].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][H:9]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8][H:9],-1.86811425991
[C:13]([H:14])([H:15])[H:16].[O:1][C:2]([H:3])([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.1526065695299998
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:8].[O:1]=[C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.2655156139700003
[C:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13],-1.05012917264
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]#[C:3][O:4][C:5]>>[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-5.95114815636
[C:8]([H:9])[O:10][H:11].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-5.47989731248
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:9][H:10]>>[H:10].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[O:9],1.37647960187
[C:1]#[C:2][C:3]([O:4][H:5])[C:6](=[O:7])[H:8]>>[C:1]#[C:2][C:3][O:7][H:5].[O:4]=[C:6][H:8],3.73725585552
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],4.760360296
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.8364440276400005
[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][H:9],-6.1938456625
[C:1]#[C:2][H:3].[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],-4.400334557219999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.06510225885
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-1.4463185358
[C:6](#[C:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3][O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[O:9][H:10],0.55758664626
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11][H:12]>>[H:10].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:11][H:12],1.25466417149
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.54808042535
